US05591762
4'-[[2-n-Propyl-4-methyl-6-(1-isopropyl-4-isopropyl-5-methylimidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 146 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and N-isopropylformamide/isopropylamine.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2OC(=C(N2)C(C)C)C | C36H41N3O3
reactant | N-isopropylformamide isopropylamine | C(C)(C)NC=O.C(C)(C)N
product | 4'-[[2-n-Propyl-4-methyl-6-(1-isopropyl-4-isopropyl-5-methylimidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)C(C)C)C)C(C)C | C35H40N4O2
